Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p Fall, Altered Mental Status
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___ year old male with PMHx of atrial fibrillation 
not on anticoagulation, sCHF (LVEF 25%), HTN, mod to sev 
dementia in the process of being transferred to the dementia 
unit at his ALF, and orthostatic hypotension with tendency to 
fall who was found down in his nursing home in another patient's 
room, apparently confused. The fall was unwitnessed and it is 
unclear if syncope occurred. He did strike his head. He does not 
remember the fall and he is a poor historian due to known 
dementia.  
He denies any current pain or other symptoms. The geriatrics 
fellow was able to catch his daughter in the ___ and according to 
his note, he is near his baseline mental status now.  
 
In the ___, initial vital signs were: 98 ___ 16 94% RA  
Labs were normal  
Patient was given 500mL NS, Metoprolol Succinate 25mg  
Vitals on transfer: 97.5 81 145/92 16 100% RA  
 
Review of Systems:  
(+) As above.  
(-) fever, chills, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, 
dysuria.  
 
Past Medical History:
Dementia
Chronic systolic cardiomyopathy EF 25%
Atrial fibrillation not on anticoagulation
Thrombocytopenia. Baseline is in 50,000s x many years.
Depression.
Essential tremor.
Prostate cancer s/p radiation treatment.
Hypertension.
Benign prostatic hypertrophy.
OSA on CPAP
Bullous pemphigoid on prednisone 
 
Social History:
___
Family History:
Per geriatrics fellow note.
Father and Mother died in ___, Brother with macular 
degeneration
 
Physical Exam:
Physical Exam:  
Vitals- 97.4, 158/94, 83, 21, 96% 2LNC  
General: Elderly man in NAD, pleasant, AAO x 1  
HEENT: PERRL, sclerae anicteric, MMM  
Neck: supple  
CV: Irregular, no m/r/g  
Lungs: Bibasilar crackles, otherwise clear.  
Abdomen: soft, non-tender  
Ext: 2+ pitting edema to hips bilaterally  
Skin: 1 cm laceration at L shin, 4-5 cm skin tear w/ blood on 
back w/ tegaderm in place. Numerous healed hyperpigmented 
lesions ___ to bullous disease  
Neuro: + increased tone in bilateral arms with cogwheel 
rigidity, normal reflexes in b/l lower extremities, patient did 
not want to follow commands, said "let me sleep"  

DISCHARGE PHYSICAL EXAM
Vitals: 98.0 - 132/74 - 72 - 20 - 95RA
General: Elderly man in NAD, pleasant, smiling, oriented x2  
("hospital" and self)
HEENT: PERRL, sclerae anicteric, MM moist
Neck: supple  
CV: Irregular, no m/r/g  
Lungs: lungs clear.  
Abdomen: soft, non-tender  
Ext: trace pitting edema pretibial bilaterally, legs are 
elevated
Skin: 1 cm laceration at L shin, 4-5 cm skin tear w/ blood on 
back 
      w/ tegaderm in place. Numerous healed hyperpigmented 
lesions 
      ___ to bullous disease  
Neuro: normal reflexes in b/l lower extremities, face symmetric, 
but 
      does not comply with neuro exam, eg extra ocular 
      movements. lifts all extremities spontaneously
 
Pertinent Results:
ADMISSION LABS
===============
___ 03:30PM BLOOD WBC-8.1 RBC-4.15* Hgb-14.6 Hct-46.9 
MCV-113* MCH-35.1* MCHC-31.1 RDW-17.0* Plt ___
___ 03:30PM BLOOD Neuts-81.9* Lymphs-11.3* Monos-5.3 
Eos-0.8 Baso-0.7
___ 03:30PM BLOOD ___ PTT-42.6* ___
___ 03:30PM BLOOD Glucose-136* UreaN-31* Creat-1.4* Na-140 
K-4.5 Cl-100 HCO3-31 AnGap-14
___ 03:30PM BLOOD proBNP-8322*
___ 03:30PM BLOOD VitB12-796
___ 03:30PM BLOOD TSH-6.6*
___ 03:30PM BLOOD T4-6.5
___ 03:30PM BLOOD Digoxin-1.1
___ 03:43PM BLOOD Lactate-2.0

DISCHARGE LABS
===============
___ 07:30AM BLOOD WBC-4.8 RBC-3.63* Hgb-12.8* Hct-39.4* 
MCV-108* MCH-35.2* MCHC-32.5 RDW-15.7* Plt ___

URINE STUDIES
==============
___ 03:50PM URINE Color-Straw Appear-Clear Sp ___
___ 03:50PM URINE Blood-MOD Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 03:50PM URINE RBC-25* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 03:50PM URINE CastHy-7*

MICROBIOLOGY
=============
___ 7:10 am URINE     Site: NOT SPECIFIED
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH.

___ EKG Atrial fibrillation with a moderate ventricular 
response. Baseline artifact. Right bundle-branch block. Compared 
to the previous tracing of ___ no diagnostic interim change. 
 
Rate PR QRS QT/QTc P QRS T 
83 0 ___ 0 -3 -146 
 
___ HIP.PELVIS X RAY. FINDINGS: AP view of the pelvis.  AP 
and frogleg views of the right hip.  The bones are diffusely 
osteopenic.  There is no fracture or acute osseous abnormality.  
Pubic symphysis and SI joints are preserved.  Degenerative 
changes noted in the lumbar spine.  Right femoroacetabular joint 
demonstrates mild degenerative changes without fracture or 
malalignment.  Atherosclerotic calcifications seen within the 
vessels.  Surgical clips project over the lower abdomen and 
pelvis. 
IMPRESSION:  No acute fracture. 

___ CXR
FINDINGS:  When compared to prior, there has been no significant 
interval 
change.  Again seen is retrocardiac opacity which could 
represent a 
combination of effusion, atelectasis and consolidation.  
Elsewhere, the lungs are clear.  The cardiac silhouette is 
enlarged but stable in configuration.  Dense atherosclerotic 
calcifications seen in the aorta.  Surgical clips in the right 
upper quadrant.  No acute osseous abnormality is identified. 

___ FINDINGS:  AP, OBLIQUE, AND LATERAL VIEWS OF THE RIGHT 
ELBOW:  There is no evidence of acute fracture or dislocation.  
Evaluation for a joint effusion is limited as a true lateral 
view is not provided.  The joint spaces are preserved.  No 
concerning osseous lesion or abnormal soft tissue calcification 
is identified. 
  
IMPRESSION:  No evidence of acute fracture or dislocation. 
  
CT C SPINE W/O CONTRSAT
FINDINGS:   
There is no evidence of acute fracture.  Extensive degenerative 
changes are again noted and are relatively unchanged compared to 
the prior examination.  
This includes reversal of the cervical lordosis centered at C5-6 
with complete fusion of the C5-6 vertebral bodies and partial 
fusion of the C6-7 vertebral bodies.  Mild anterolisthesis of C3 
on C4 is also unchanged.  Loss of disc height, uncovertebral and 
facet joint arthropathy is most severe from C4 through C7, as 
before.  Bones are diffusely osteopenic.  There is no 
prevertebral soft tissue abnormality.  Calcifications are again 
noted along the aortic arch. 
  
Limited view of the lung apices now demonstrates a new focus of 
airspace 
opacification along the bronchovascular tree.  Moderate 
bilateral pleural 
effusions are present. 
  
IMPRESSION: 
1.  Stable appearance of severe multilevel degenerative changes 
without 
evidence of acute fracture. 
2.  Interval development of increased airspace opacification 
along the 
bronchovascular tree in the left apex, consistent with 
bronchopneumonia in the appropriate clinical setting. 
3.  Moderate bilateral pleural effusions. 

CT ABD/PELV
FINDINGS:   
Partially imaged lung bases are notable for small-to-moderate 
bilateral 
pleural effusions, increased on the right, and adjacent 
compressive 
atelectasis. Cardiomegaly and coronary artery calcifications are 
noted. 
  
CT ABDOMEN:  Evaluation of intra-abdominal structures is limited 
by lack of intravenous contrast.  Non-contrast enhanced 
appearance of the liver, spleen, pancreas and adrenal glands is 
unremarkable. 
  
A homogeneous well-circumscribed lobulated soft tissue density 
superior to the right kidney measuring 3.8 x 6.6 cm (2:13), 
previously 4.2 x 6.4 cm, is virtually unchanged compared to the 
prior examination and likely represents a benign process. 
  
Stomach is decompressed.  Nondilated loops of small bowel are 
normal in course and caliber.  The colon is notable for 
extensive sigmoid diverticulosis without diverticulitis.  There 
is no intra-abdominal free air or fluid.  
Extensive atherosclerotic calcifications are noted along a 
tortuous abdominal aorta and iliac arteries without aneurysmal 
dilatation.  There is no mesenteric or retroperitoneal 
lymphadenopathy. 
  
CT PELVIS:  The bladder is decompressed around a Foley catheter 
Prostate is enlarged. There is no pelvic free fluid or 
lymphadenopathy. 
  
BONE WINDOW:  Severe multilevel degenerative changes in the 
imaged spine 
including mild anterolisthesis of L5 on S1 and L4 on L5 is 
unchanged.  There is, however, increased irregularity and 
cortical discontinuity at the inferior endplate of the L3 
vertebral body not present on the prior study of ___. The fracture line extends to the anterior wall of the L3 
vertebral body. There is also buckling of the posterior wall of 
L3, but no definite evidence of retropulsion into the canal.  
  
IMPRESSION: 
1. New compression fracture of the L3 vertebral body as 
described above.  
2. Small-to-moderate bilateral pleural effusions, increased on 
the right. 
3. A 2.8 x 6.6 cm lobulated mass superior to the right kidney 
and independent from the right kidney and the right adrenal 
gland, probably represents a benign process as there has been no 
change compared to the prior study. 

___ CT HEAD
FINDINGS: 
There is no evidence of hemorrhage, edema, mass effect, or acute 
vascular 
territorial infarction.  Prominent ventricles and sulci are 
unchanged, likely represent age-related involutional changes or 
atrophy.  A cavum septum pellucidum variant is again noted.  
Basilar cisterns are patent.  Gray-white matter differentiation 
is preserved. 
  
Partially imaged paranasal sinuses, mastoid air cells, and 
middle ear cavities are clear.  Orbits are unremarkable.  No 
acute fracture is identified. 
  
IMPRESSION:  No evidence of acute intracranial abnormality. 
  
___ T SPINE X RAY FINDINGS:  
AP and lateral views of the thoracic spine show depression of 
the right side of the superior endplate of T10, similar in 
degree to that seen on the coronal images from the previous CT 
images.  This is less evident on both sagittal and today's 
lateral views but there is no posterior displacement of bone.  
Vertebral bodies appear diffusely demineralized. Intervertebral 
disk disease and associated subchondral sclerosis is seen at 
L1-L2 on the right and at L2-L3, included the view of this 
study.  Calcified atherosclerotic plaque is seen throughout the 
descending thoracic aorta which is not dilated.  Surgical clips 
are seen in the right upper quadrant. 
  
IMPRESSION:  Demineralized thoracic vertebral bodies and 
unchanged minimal nonacute superior endplate compression at T10 
compared to ___. 
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
======================
Mr. ___ is a ___ year old gentleman with history of atrial 
fibrillation, sCHF (LVEF 25%), dementia, and orthostatic 
hypotension presenting with encephalopathy and new L3 
compression fracture. He was managed conservatively with speedy 
improvement in his mental status. He was discharged to a short 
term rehab.

ACTIVE MEDICAL ISSUES
======================
# Fall with new L3 compression fracture: Trauma workup in ___ 
revealed L3 compression fracture. He was evaluated by 
Orthopedics who initially recommended MRI, but given the 
patient's goals of care and comfort, recommended soft LSO brace. 
Physical therapy evaluated the patient and recommended short 
term rehab. His vitamin D was increased to ___ units daily. 
 
# Encephalopathy in the setting of dementia: He was quite 
lethargic on admission. Likely encephalopathy secondary to pain. 
His urine culture was negative and T4 and B12 were normal. We 
minimized tethers and treated pain with acetaminophen (standing, 
as the patient is very stoic) and a lidocaine patch. He was 
started on short term oral supplements to promote wound healing. 

- Should continue glucerna TID after discharge. 

# Acute on chronic sCHF: EF 25%. Dry weight as of ___ was 
162 lbs. He was continued on torsemide and digoxin.
 
#CKD: He was below his recent baseline (creatinine 1.5-1.7).
 
# Afib: CHADS2 of 3 at home. On ASA 81 per prior discussions 
with family about anticoagulation. He was continued on 
metoprolol and digoxin 0.0625 daily once able to take PO. 
 
# R adrenal/kidney mass: 4 x 7 cm lobulated mass immediately 
superior to the right kidney. Deferred further workup given 
would likely be invasive and unlikely to improve patient's 
quality or quantity of life.  
 
# Bullous pemphigoid: continued home prednisone.
 
# Depression: continued home mirtazapine and venlafaxine.
 
# HTN: Continued metoprolol as above.
 
# OSA: on CPAP at home. This was continued in house. Please 
ensure patient wears CPAP at night at facility. Has f/u 
appointment made with sleep medicine.

TRANSITIONAL ISSUES
====================
- Code status: DNR/DNI.
- Emergency contact: ___ (daughter/HCP) ___ 
- Studies pending on discharge: None.
- Wear LSO brace when out of bed for comfort.
- Follow up in ___ weeks after discharge at ___ 
___ ___ floor). Please make appointment for patient at 
___. He will need x-rays at this appointment.
- Please check potassium 1 week after discharge (patient on 
torsemide, potassium stopped while here as potassium was 
stable).
- Re: PREDNISONE. After ___ weeks, please attempt to decrease to 
5 of prednisone and continue tapering.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Digoxin 0.0625 mg PO QAM 
4. Miconazole 2% Cream 1 Appl TP BID:PRN jock itch 
5. Mirtazapine 22.5 mg PO HS 
6. Omeprazole 20 mg PO DAILY 
7. PredniSONE 12.5 mg PO DAILY 
8. Venlafaxine XR 37.5 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Metoprolol Succinate XL 50 mg PO QAM 
11. Metoprolol Succinate XL 25 mg PO QPM 
12. Torsemide 20 mg PO DAILY 
13. Torsemide 10 mg PO EVERY ___ DAY 
14. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Aspirin 81 mg PO DAILY 
3. Digoxin 0.0625 mg PO QAM 
4. Miconazole 2% Cream 1 Appl TP BID:___ jock itch 
5. Mirtazapine 22.5 mg PO HS 
6. Omeprazole 20 mg PO DAILY 
7. PredniSONE 7.5 mg PO DAILY 
8. Torsemide 20 mg PO DAILY 
9. Venlafaxine XR 37.5 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. Lidocaine 5% Patch 1 PTCH TD QPM 
12. Metoprolol Succinate XL 50 mg PO QAM 
13. Metoprolol Succinate XL 25 mg PO QPM 
14. Torsemide 10 mg PO EVERY ___ DAY 
15. Senna 8.6 mg PO HS:PRN constipation 
16. Docusate Sodium 200 mg PO DAILY 
17. Carbamide Peroxide 6.5% ___ DROP AD BID Duration: 4 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy
L3 compression fracture
Fall
Dementia
Delirium

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking part in your care at ___! You were 
admitted for confusion and being very tired after a fall at your 
facility. You were seen by Orthopedics, who recommended wearing 
a brace around your back when out of bed. Your confusion 
improved and you returned to your normal self.
You will need to follow up with the Spine team and spend a short 
time at a rehabilitation facility to help get stronger.
 
Followup Instructions:
___